US07851473B2
N-Isoxazol-5-yl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl isoxazol-5-ylcarbamate (200 mg, 0.771 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (190 mg, 0.771 mmol), diisopropylethylamine (0.134 ml, 0.771 mmol) and dimethylsulfoxide (7 ml) was stirred at 70° C. for 12 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to obtain the desired product as a solid. This was recrystallized from a mixed solvent of tetrahydrofuran, ethyl acetate and hexane to obtain the desired product (61.5 mg, 22.4%) as a solid.

reactant | 2,2,2-trichloroethyl isoxazol-5-ylcarbamate | 0.771 mmol, 200 mg | O1N=CC=C1NC(OCC(Cl)(Cl)Cl)=O | C6H5Cl3N2O3
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.771 mmol, 190 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.771 mmol, 0.134 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 7 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-Isoxazol-5-yl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | O1N=CC=C1NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C16H16N6O2S
